US07329680B2
4-[1-(4,6-bis-Dimethylamino-[1,3,5]-triazin-2-yl)-5-bromo-1H-indol-3-yl]-4-oxo-butyric acid
A solution of 4-(5-bromo-1H-indol-3-yl)-4-oxobutyric acid (148 mg, 0.5 mmol) in anhydrous dimethylformamide (5 mL) was added dropwise to a stirred suspension of sodium hydride (95%, 50 mg, 2.0 mmol) in dimethylformamide (5 mL). After 30 mins, a solution of N2,N2,N4,N4-tetramethyl-6-chloro-[1,3,5]-triazine-2,4-diamine (100 mg, 0.5 mmol) in dimethylformamide (5 mL) was added dropwise. The reaction mixture was stirred at 70° C. for 16 hours, cooled to room temperature and then poured carefully into water (20 mL), acidified to pH 4 with 0.5N hydrochloric acid and extracted with ethyl acetate (3×25 mL). The combined extract was washed with water, brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (5% methanol in dichloromethane) afforded the title compound as a white solid (111 mg, 48%), Rf: 0.40 (10% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 MHz) δ 8.96 (1H, s, ArH), 8.55 (1H, d, J=9 Hz, ArH), 8.33 (1H, d, J=2 Hz, ArH), 7.47 (1H, dd, J=9, 2 Hz, ArH), 3.22 (2H, t, J=7 Hz, CH2), 3.18 (6H, s, 2×Me), 3.12 (6H, s, 2×Me), 2.59 (2H, t, J=7 Hz, CH2); ESI-LCMS e/z calculated for C19H21BrN6O3 461.318, found 461 [M+H (79Br)]+, 463 [M+H (81Br)]+, 483 [M+Na (79Br)]+, 485 [M+Na (81Br)]+.

reactant | 4-(5-bromo-1H-indol-3-yl)-4-oxobutyric acid | 0.5 mmol, 148 mg | BrC=1C=C2C(=CNC2=CC1)C(CCC(=O)O)=O | C12H10BrNO3
reactant | sodium hydride | 2.0 mmol, 50 mg | [H-].[Na+]
reactant | N2,N2,N4,N4-tetramethyl-6-chloro-[1,3,5]-triazine-2,4-diamine | 0.5 mmol, 100 mg | CN(C1=NC(=NC(=N1)N(C)C)Cl)C | C7H12ClN5
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 4-[1-(4,6-bis-Dimethylamino-[1,3,5]-triazin-2-yl)-5-bromo-1H-indol-3-yl]-4-oxo-butyric acid | 111 mg, 48% | CN(C1=NC(=NC(=N1)N(C)C)N1C=C(C2=CC(=CC=C12)Br)C(CCC(=O)O)=O)C | C19H21BrN6O3
